US04863947
To 1.5 g of zinc dust (23.8 mmole) and 5.2 g of triphenylphosphine (20 mmole) in 20 ml of methylene chloride was added 6.8 g of carbon tetrabromide (20 mmole) after stiring for 90 minutes a solution of 3 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide in 10 ml of MeCl2 is added and the mixture is stirred an additional 60 minutes. The reaction is partitioned between ether and aqueous sodium thiosulfate, dried, rotovaped and chromatographed (ether/hexane) to yield 2.0 g of N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-(2,2-dibromovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide an oil. NMR data was consistent with the structure.

reactant | triphenylphosphine | 20 mmole, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 20 mmole, 6.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-formyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 3 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=O)C1=CC=C(C=C1)Cl)(F)F | C19H15ClF3N3O3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | MeCl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 23.8 mmole, 1.5 g | [Zn] | Zn
product | N-(4-trifluoromethoxyphenyl)-3-(4-chlorophenyl)-4-(2,2-dibromovinyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 2.0 g | FC(OC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)C=C(Br)Br)C1=CC=C(C=C1)Cl)(F)F | C20H15Br2ClF3N3O2
